US05945434
8-p-Fluorobenzyl-1,4-dioxa-8-azaspiro[4.5]decane
1,4-Dioxa-8-azaspiro[4.5]decane (29.9 g) was dissolved in chloroform (150 ml), triethylamine (32 ml) and p-fluorobenzyl chloride (27.5 ml) were successively added under ice-cooling, and the mixture was stirred overnight. The reaction solution was successively washed with a 20% aqueous solution of sodium hydroxide (150 ml×2) and water (150 ml), dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue obtained was purified by silica gel column chromatography (chloroform:methanol=10:1) to give the title compound (49.4g) as a yellow oily substance. Yield=94%.

reactant | 1,4-Dioxa-8-azaspiro[4.5]decane | 29.9 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | triethylamine | 32 ml | C(C)N(CC)CC | C6H15N
reactant | p-fluorobenzyl chloride | 27.5 ml | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-p-Fluorobenzyl-1,4-dioxa-8-azaspiro[4.5]decane | 49.4g, Yield=94% | FC1=CC=C(CN2CCC3(OCCO3)CC2)C=C1 | C14H18FNO2
